US06528525B1
(c) Ethyl 2-(4-hydroxybenzyl)-5-phenylvalerate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 2-(4-benzyloxybenzyl)-5-phenylvalerate (3.32 g) and palladium on carbon (5%, 0.40 g) and the reaction mixture was treated to afford the desired compound (2.56 g) as a syrup.

reactant | ethyl 2-(4-benzyloxybenzyl)-5-phenylvalerate | 3.32 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OCC)CCCC2=CC=CC=C2)C=C1 | C27H30O3
catalyst | palladium on carbon | 0.40 g | [Pd] | Pd
product | Ethyl 2-(4-hydroxybenzyl)-5-phenylvalerate | 2.56 g | OC1=CC=C(CC(C(=O)OCC)CCCC2=CC=CC=C2)C=C1 | C20H24O3
